US07378448B2
1.0M Lithium aluminum hydride in tetrahydrofuran (5 mL) was added to a solution of acetic acid 4-[4-(2-ethoxycarbonylamino-ethyl)-phenoxy]-phenyl ester (330 mg, 1.0 mmol) in tetrahydrofuran (25 mL). Refluxed overnight, cooled to room temperature, then quenched the reaction with saturated aqueous ammonium chloride and stirred for 3 hours. Decanted the organic layer. Washed the remaining solid with ethyl acetate (2×30 mL). Combined all the organic washes then concentrated on a rotary evaporator to yield 4-[4-(2-Methylamino-ethyl)-phenoxy]-phenol (200 mg): HPLC=98% (5/95 to 95/5 ACN/(0.1% TFA in water) over 10 minutes, Zorbax SB-Phenyl 4.6 mm×15 cm×5 micron, λ=254 nM. 1H NMR (CDCl3, 300.00 MHz): 7.42-6.77 (m, 8H), 4.32 (s, 1H), 2.95-2.79 (m, 4H), 2.52 (s, 3H). Step 2 4-{4-[2-(Benzyl-methyl-amino)-ethyl]-phenoxy}-phenol

reactant | Lithium aluminum hydride | 1.0M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | acetic acid 4-[4-(2-ethoxycarbonylamino-ethyl)-phenoxy]-phenyl ester | 1.0 mmol, 330 mg | C(C)OC(=O)NCCC1=CC=C(OC2=CC=C(C=C2)OC(C)=O)C=C1 | C19H21NO5
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 4-[4-(2-Methylamino-ethyl)-phenoxy]-phenol | 200 mg | CNCCC1=CC=C(OC2=CC=C(C=C2)O)C=C1 | C15H17NO2
